US04107188
To a solution of 19.6 g of freshly distilled triethyl 4-phosphonocrotonate in 50 ml of dry glyme was added (at -70° ) 50 ml of a 1.6 M solution of butyl lithium in hexane. After 15 min the temperature was brought to -10° and 30 g of 3α,12α-diacetoxycholan-24-al was dissolved in 200 ml of dry glyme was added dropwise. After stirring for 20 min at this temperature the reaction mixture was allowed to warm to room temperature and stirred for 0.5 hr. The reaction mixture was then poured into 2 liters of a 5% monobasic sodium phosphate solution and the mixture extracted with ether. The ether solution was washed with a saturated aqueous sodium chloride solution and dried (MgSO4). The solvent was removed under reduced pressure and the residue after being dissolved in a minimum amount of benzene was washed through 300 g of silica gel. The column was eluted with 4 liters of benzene and then 4 liters of 0.5% ethyl acetate-benzene solution, and the solids obtained therefrom were combined to give 20.7 g of crude 7-(3α,12α-diacetoxy-5β-pregnane-20-yl)-trans,trans- 2,4-heptadienoic acid ethyl ester. Trituration with petroleum ether afforded 13.1 g of 7-(3α,12α-diacetoxy-5β-pregnane-20-yl)-trans,trans-2,4-heptadienoic acid ethyl ester, mp 129°-131°, plus a second crop of 2.4 g, mp 128°-130°. Crystallization from methanol afforded the analytical sample, mp 130°-132°.

reactant | triethyl 4-phosphonocrotonate | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | butyl lithium | C(CCC)[Li]
reactant | 3α,12α-diacetoxycholan-24-al | 30 g | C(C)(=O)O[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=O)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)OC(C)=O)C | C28H44O5
reactant | sodium phosphate | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
solvent | hexane | CCCCCC | C6H14
solvent | glyme | 200 ml | C(OC)COC | C4H10O2
product | 7-(3α,12α-diacetoxy-5β-pregnane-20-yl)-trans,trans- 2,4-heptadienoic acid ethyl ester | 20.7 g | C(C)OC(\C=C\C=C\CCC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)OC(C)=O)OC(C)=O)=O | C34H52O6
